US09056859B2
5-(2-hydroxyethyl)-2-benzofuran-1(3H)-one
5-(Prop-2-en-1-yl)-2-benzofuran-1(3H)-one (1.53 g, 8.78 mmol) was dissolved in a mixture of methanol (30 mL) with just enough THF to solubilize the starting material and was cooled to −78° C. Ozone was bubbled through the solution until the reaction mixture color changed (to orange). Then nitrogen gas was bubbled through the reaction mixture for about one min. to remove the residual ozone. Sodium borohydride (0.65 g, 17 mmol) was added and the mixture was allowed to warm to room temperature. The reaction mixture was partially concentrated then was partitioned between ethyl acetate and water. The organic layer was washed with brine, then dried over MgSO4. The crude product was purified by MPLC (silica) eluting with ethyl acetate to afford pure product. LCMS: m/z 179 (M+1)+; 1H NMR (500 MHz, CD3OD) δ 7.77 (m, 1H), 7.37-7.41 (m, 2H), 5.23 (s, 2H), 192 (m, 2H), 2.99 (m, 2H).

reactant | 5-(Prop-2-en-1-yl)-2-benzofuran-1(3H)-one | 8.78 mmol, 1.53 g | C(C=C)C1=CC2=C(C(OC2)=O)C=C1 | C11H10O2
reactant | Sodium borohydride | 17 mmol, 0.65 g | [BH4-].[Na+]
reactant | methanol | 30 mL | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | 5-(2-hydroxyethyl)-2-benzofuran-1(3H)-one | OCCC1=CC2=C(C(OC2)=O)C=C1 | C10H10O3
